US09376436B2
A suspension of 10% Pd/C paste (1 g, 0.4400 mmol), benzyl N-[2-oxo-1-(2-trimethylsilylethoxy-methyl)-pyrrolidin-3-yl]carbamate (which may be prepared as described in Description 40) (7.2 g, 19.8 mmol) and ammonium formate (3.7 g, 58.6 mmol) in methanol (400 mL) was heated at a block temperature of 55° C. under N2 for 2 hours. The reaction was cooled to ambient temperature and filtered through Celite under N2 and washed with MeOH (2×25 mL). The filtrate was evaporated to a colourless oil. The oil was partitioned between DCM (75 mL) and water (75 mL). The latter was re-extracted with DCM (5×50 mL) then DCM/MeOH (9:1) (2×50 mL) and the combined organic extracts were dried (Na2SO4) and evaporated to a colourless oil, which was dried at room temperature under vacuum for 14 hours to give 3-amino-1-(2-trimethylsilylethoxymethyl)pyrrolidin-2-one (D41) 2.7 g (11.7 mmol=59% yield);

reactant | benzyl N-[2-oxo-1-(2-trimethylsilylethoxy-methyl)-pyrrolidin-3-yl]carbamate | 19.8 mmol, 7.2 g | O=C1N(CCC1NC(OCC1=CC=CC=C1)=O)COCC[Si](C)(C)C | C18H28N2O4Si
reactant | ammonium formate | 58.6 mmol, 3.7 g | C(=O)[O-].[NH4+]
solvent | methanol | 400 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-1-(2-trimethylsilylethoxymethyl)pyrrolidin-2-one | 11.7 mmol, 2.7 g, 59% yield | NC1C(N(CC1)COCC[Si](C)(C)C)=O | C10H22N2O2Si
